US07459263B2
First, 2-(4-methoxyphenylthio)benzoic acid was prepared. A stirred mixture of thiosalicylic acid (10.0 g, 65 mmol), 4-iodoanisole (15.18 g, 65 mmol), potassium carbonate (19.72 g, 143 mmol), copper powder (0.82 g, 13 mmol), and N-methylpyrrolidinone (100 mL) was deaerated by sparging with nitrogen for 10 min, heated at 165° C. for 18 h, and then cooled to ambient. The reaction mixture was poured onto a mixture of 500 g of ice plus 40 mL or concentrated HCl. The resulting precipitate was collected, washed with water, and dried. The product was purified by recrystallization from a mixture of water, ethanol, and tetrahydrofuran. A white powder was obtained, mass: 12.06 g (71% of theory).

reactant | thiosalicylic acid | 65 mmol, 10.0 g | C(C=1C(S)=CC=CC1)(=O)O | C7H6O2S
reactant | 4-iodoanisole | 65 mmol, 15.18 g | IC1=CC=C(C=C1)OC | C7H7IO
reactant | potassium carbonate | 143 mmol, 19.72 g | C([O-])([O-])=O.[K+].[K+]
catalyst | copper | 13 mmol, 0.82 g | [Cu] | Cu
solvent | N-methylpyrrolidinone | 100 mL | CN1C(CCC1)=O | C5H9NO
product | 2-(4-methoxyphenylthio)benzoic acid | COC1=CC=C(C=C1)SC1=C(C(=O)O)C=CC=C1 | C14H12O3S
